US08247596B2
A mixture of 42.65 g of 3,3,4,4,5,5,6,6,6-nonafluorohexyl p-toluenesulfonate, 100 ml of N,N-dimethylformamide and 11.65 g of potassium thioacetate was heated and stirred at 80° C. for 4 hours under a nitrogen atmosphere. A reaction vessel was cooled in an ice bath. To the reaction mixture was added an aqueous 1N hydrochloric acid solution, and the mixture was extracted with 200 ml of ethylacetate twice. Organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 18.91 g of 3,3,4,4,5,5,6,6,6-nonafluorohexyl thioacetate represented by the formula:

reactant | 3,3,4,4,5,5,6,6,6-nonafluorohexyl p-toluenesulfonate | 42.65 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C | C13H11F9O3S
reactant | potassium thioacetate | 11.65 g | C(C)(=S)[O-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,3,4,4,5,5,6,6,6-nonafluorohexyl thioacetate | 18.91 g | C(C)(=S)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C8H7F9OS
